US07968553B2
Step 2: N-(4-fluorobenzyl)-3-hydroxy-8-[methoxy(methyl)amino]-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide
To a solution of methyl 3-(benzoyloxy)-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate in anhydrous DMF were added O, N-dimethylhydroxylamine hydrochloride (2.5 eq.) and DIPEA (2.2 eq.). The mixture was stirred and warmed to 65° C. for 6 h. The mixture was cooled to room temperature and the solvent was removed under high vacuum. The residue was dissolved in methanol and p-fluoro-benzylamine (2.2 eq.) and triethylamine (2 eq.) were added. The mixture was stirred at 65° C. for 16 h. After cooling to room temperature the mixture was partitioned between aq. ammonium chloride and dichloromethane. The aq. phase was again extracted with dichloromethane. The combined organic phases were then extracted with 0.1 M NaOH. The aq. phase was then acidified to pH 5 ca. with 1 M aq. HCl and extracted with dichloromethane. The organic phase was dried over sodium sulfate, filtered and concentrated to dryness. The crude product so obtained was used in the subsequent step without further purification.

reactant | methyl 3-(benzoyloxy)-4-oxo-6,7-dihydro-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C2N(C1=O)CCC=C2)C(=O)OC | C17H14N2O5
reactant | DIPEA | 2.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | p-fluoro-benzylamine | 2.2 eq. | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | triethylamine | 2 eq. | C(C)N(CC)CC | C6H15N
reactant | DMF | CN(C)C=O | C3H7NO
product | N-(4-fluorobenzyl)-3-hydroxy-8-[methoxy(methyl)amino]-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)CCC(C3)N(C)OC)C=C1 | C18H21FN4O4
